### PR TITLE
[Merged by Bors] - feat: Port `Data.Nat.Sqrt`

### PR DESCRIPTION
**Pull request by 0art0**
ba2245edf0c8bb155f1569fd9b9492a9b384cde6

### CODE REVIEW

**Comment by semorrison** [comment]
(No need to include the git sha in the PR description anymore.)

File: Mathlib/Data/Nat/Sqrt.lean [hunk 1]
```diff
@@ -0,0 +1,370 @@
...
+#align nat.sqrt_one Nat.sqrt_one
+
+theorem sqrt_succ_le_succ_sqrt (n : ℕ) : sqrt n.succ ≤ n.sqrt.succ :=
+  le_of_lt_succ <|
+    sqrt_lt.2 <|
+      lt_succ_of_le <|
+        succ_le_succ <|
+          le_trans (sqrt_le_add n) <|
+            add_le_add_right
+              (by refine' add_le_add (Nat.mul_le_mul_right _ _) _ <;> exact Nat.le_add_right _ 2) _
```
Comment (Smaug123) [inline Mathlib/Data/Nat/Sqrt.lean:329]: Is this not nicer, to prevent everything marching off to the right? (I have no experience with the style of mathlib4 and may be breaking conventions or something.)

```suggestion
  add_le_add_right
    (by refine' add_le_add (Nat.mul_le_mul_right _ _) _ <;> exact Nat.le_add_right _ 2) _
  |> le_trans (sqrt_le_add n)
  |> succ_le_succ
  |> lt_succ_of_le
  |> sqrt_lt.2
  |> le_of_lt_succ
```

Comment (digama0) [reply Mathlib/Data/Nat/Sqrt.lean:329]: The more usual style is to just put several of these on the same line. Mathport is just using the default lean formatter and it is not that smart. I think it is better to avoid `|>`, it is rarely used so it will throw people off and the elaboration order is backwards (that is, `f` is elaborated first in `a |> f`) which is confusing.

Comment (0art0) [reply Mathlib/Data/Nat/Sqrt.lean]: I have put several pipes on the same line in [my recent commit](https://github.com/leanprover-community/mathlib4/pull/1142/commits/1b8e9d8c155d73442765af096d998c87540ffdb4), as suggested by Mario Carneiro.

File: Mathlib/Data/Nat/Sqrt.lean [hunk 2]
```diff
@@ -0,0 +1,319 @@
...
+Authors: Leonardo de Moura, Johannes Hölzl, Mario Carneiro
+
+! This file was ported from Lean 3 source module data.nat.sqrt
+! leanprover-community/mathlib commit ba2245edf0c8bb155f1569fd9b9492a9b384cde6
+! Please do not edit these lines, except to modify the commit id
+! if you have ported upstream changes.
+-/
+import Mathlib.Data.Int.Order.Basic
+import Mathlib.Data.Nat.Size
+import Mathlib.Data.Nat.ForSqrtEssential
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Sqrt.lean:13]:
```suggestion
import Mathlib.Data.Nat.ForSqrt
```

File: Mathlib/Data/Nat/ForSqrt.lean [hunk 3]
```diff
@@ -0,0 +1,103 @@
...
+  case neg => rwa [← le_div_iff_mul_le (pos_iff_ne_zero.2 hk)]
+
+protected lemma div_mul_div_le (a b c d : ℕ) :
+  (a / b) * (c / d) ≤ (a * c) / (b * d) := by
+  by_cases hb : b = 0
+  case pos => simp [hb]
+  by_cases hd : d = 0
+  case pos => simp [hd]
+  have hbd : b * d ≠ 0 := mul_ne_zero hb hd
+  rw [le_div_iff_mul_le (pos_iff_ne_zero.2 hbd)]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/ForSqrt.lean:34]:
```suggestion
  rw [le_div_iff_mul_le (pos_of_ne_zero hbd)]
```

File: Mathlib/Data/Nat/ForSqrt.lean [hunk 4]
```diff
@@ -0,0 +1,103 @@
...
+  · apply Nat.mul_le_mul <;> apply div_mul_le_self
+
+private lemma iter_fp_bound (n k : ℕ) :
+    let iter_next (n guess : ℕ) := (guess + n / guess) / 2;
+    sqrt.iter n k ≤ iter_next n (sqrt.iter n k)  := by
+      intro iter_next
+      unfold sqrt.iter
+      by_cases h : (k + n / k) / 2 < k
+      case pos => simp [if_pos h]; exact iter_fp_bound _ _
+      case neg => simp [if_neg h]; exact Nat.le_of_not_lt h
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/ForSqrt.lean:46]:
```suggestion
  let iter_next (n guess : ℕ) := (guess + n / guess) / 2;
  sqrt.iter n k ≤ iter_next n (sqrt.iter n k)  := by
    intro iter_next
    unfold sqrt.iter
    by_cases h : (k + n / k) / 2 < k
    case pos => simp [if_pos h]; exact iter_fp_bound _ _
    case neg => simp [if_neg h]; exact Nat.le_of_not_lt h
```

File: Mathlib/Data/Nat/Sqrt.lean [hunk 5]
```diff
@@ -0,0 +1,319 @@
...
+-- but this seems tricky
+@[nolint unusedHavesSuffices]
+theorem sqrtAux_2 {r n b} (h : b ≠ 0) (h₂ : n < r + b) :
+    sqrtAux b r n = sqrtAux (shiftr b 2) (div2 r) n := by
+  rw [sqrtAux]; simp only [h, h₂, if_false]
+  cases' Int.eq_negSucc_of_lt_zero (sub_lt_zero.2 (Int.ofNat_lt_ofNat_of_lt h₂)) with k e
+  rw [e, sqrtAux]
+  rfl
+#align nat.sqrt_aux_2 Nat.sqrtAux_2
+
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Sqrt.lean:87]:
```suggestion
-- Porting note: the implementation òf `Nat.sqrt` in `Std` no longer needs `sqrt_aux`.
#noalign nat.sqrt_aux_dec
#noalign nat.sqrt_aux
#noalign nat.sqrt_aux_0
#noalign nat.sqrt_aux_1
#noalign nat.sqrt_aux_2
```

File: Mathlib/Data/Nat/Sqrt.lean [hunk 6]
```diff
@@ -0,0 +1,319 @@
...
+      intro h
+    · have := sqrtAux_IsSqrt _ m r h₁ h
+      rw [mul_comm 2, mul_assoc, mul_comm 2] at this
+      exact this
+    · rw [pow_succ, mul_two, ← add_assoc] at h₂
+      have := sqrtAux_IsSqrt _ m (r + 2 ^ (m + 1)) h h₂
+      rw [mul_comm 2, mul_assoc, mul_comm 2] at this
+      exact this
+-- #align nat.sqrt_aux_is_sqrt nat.sqrtAux_IsSqrt
+
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Sqrt.lean:143]:
```suggestion
```

File: Mathlib/Data/Nat/Sqrt.lean [hunk 7]
```diff
@@ -0,0 +1,319 @@
...
+/-
+Sketch of proof:
+Up to rounding, in terms of the definition of `sqrt.iter`,
+
+* By AM-GM inequality, `next² ≥ n` giving one of the bounds.
+* When we terminated, we have `guess ≥ next` from which we deduce the other bound `n ≥ next²`.
+
+To turn this into a lean proof we need to manipulate, use properties of natural number division etc.
+-/
+private theorem sqrt_IsSqrt (n : ℕ) : IsSqrt n (sqrt n) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Sqrt.lean:155]:
```suggestion
private theorem sqrt_isSqrt (n : ℕ) : IsSqrt n (sqrt n) := by
```

File: Mathlib/Data/Nat/Sqrt.lean [hunk 8]
```diff
@@ -0,0 +1,319 @@
...
+    refine ⟨sqrt.iter_sq_le _ _, sqrt.lt_iter_succ_sq _ _ ?_⟩
+    simp only [mul_add, add_mul, one_mul, mul_one, ← add_assoc]
+    rw [lt_add_one_iff, add_assoc, ← mul_two]
+    refine le_trans (div_add_mod' (n + 2) 2).ge ?_
+    rw [add_comm, add_le_add_iff_right, add_mod_right]
+    simp only [zero_lt_two, add_div_right, succ_mul_succ_eq]
+    refine le_trans (b := 1) ?_ ?_
+    · exact (lt_succ.1 $ mod_lt n zero_lt_two)
+    · simp only [le_add_iff_nonneg_left]; exact zero_le _
+-- #align nat.sqrt_is_sqrt Nat.sqrt_IsSqrt
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Sqrt.lean:171]:
```suggestion
```

File: Mathlib/Data/Nat/Sqrt.lean [hunk 9]
```diff
@@ -0,0 +1,319 @@
...
+
+theorem sqrt_le (n : ℕ) : sqrt n * sqrt n ≤ n :=
+  (sqrt_IsSqrt n).left
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Sqrt.lean:174]:
```suggestion
  (sqrt_isSqrt n).left
```

File: Mathlib/Data/Nat/Sqrt.lean [hunk 10]
```diff
@@ -0,0 +1,319 @@
...
+#align nat.sqrt_le Nat.sqrt_le
+
+theorem sqrt_le' (n : ℕ) : sqrt n ^ 2 ≤ n :=
+  Eq.trans_le (sq (sqrt n)) (sqrt_le n)
+#align nat.sqrt_le' Nat.sqrt_le'
+
+theorem lt_succ_sqrt (n : ℕ) : n < succ (sqrt n) * succ (sqrt n) :=
+  (sqrt_IsSqrt n).right
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Sqrt.lean:182]:
```suggestion
  (sqrt_isSqrt n).right
```

File: Mathlib/Data/Nat/Sqrt.lean [hunk 11]
```diff
@@ -0,0 +1,319 @@
...
+  (sq (succ (sqrt n))).symm ▸ (lt_succ_sqrt n)
+#align nat.lt_succ_sqrt' Nat.lt_succ_sqrt'
+
+theorem sqrt_le_add (n : ℕ) : n ≤ sqrt n * sqrt n + sqrt n + sqrt n := by
+  rw [← succ_mul]; exact le_of_lt_succ (lt_succ_sqrt n)
+#align nat.sqrt_le_add Nat.sqrt_le_add
+
+theorem le_sqrt {m n : ℕ} : m ≤ sqrt n ↔ m * m ≤ n :=
+  ⟨fun h => le_trans (mul_self_le_mul_self h) (sqrt_le n), fun h =>
+    le_of_lt_succ <| mul_self_lt_mul_self_iff.2 <| lt_of_le_of_lt h (lt_succ_sqrt n)⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Sqrt.lean:195]:
```suggestion
  ⟨fun h => le_trans (mul_self_le_mul_self h) (sqrt_le n),
   fun h => le_of_lt_succ <| mul_self_lt_mul_self_iff.2 <| lt_of_le_of_lt h (lt_succ_sqrt n)⟩
```

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]

File: Mathlib/Data/Nat/Sqrt.lean [hunk 12]
```diff
@@ -0,0 +1,319 @@
...
+  ⟨fun e => e.symm ▸ sqrt_IsSqrt n, fun ⟨h₁, h₂⟩ =>
+    le_antisymm (le_sqrt.2 h₁) (le_of_lt_succ <| sqrt_lt.2 h₂)⟩
+#align nat.eq_sqrt Nat.eq_sqrt
+
+theorem eq_sqrt' {n q} : q = sqrt n ↔ q ^ 2 ≤ n ∧ n < (q + 1) ^ 2 := by
+  simpa only [pow_two] using eq_sqrt
+#align nat.eq_sqrt' Nat.eq_sqrt'
+
+theorem le_three_of_sqrt_eq_one {n : ℕ} (h : sqrt n = 1) : n ≤ 3 :=
+  le_of_lt_succ <| (@sqrt_lt n 2).1 <| by rw [h]; exact by decide
```
[the remark this answers is not in the document]
Comment (0art0) [reply Mathlib/Data/Nat/Sqrt.lean:238]: Thanks. Could you please let me know the difference between `exact by decide` and `decide` in tactic mode? Does the `exact` signal that this is meant as a finishing tactic?

File: Mathlib/Data/Nat/Sqrt.lean (hunk 7 above)
Comment (0art0) [reply Mathlib/Data/Nat/Sqrt.lean:155]: Thanks. I wasn't sure about the naming conventions here, since the function is called `IsSqrt`.

File: Mathlib/Data/Nat/Sqrt.lean [hunk 13]
```diff
@@ -0,0 +1,319 @@
...
+
+@[simp]
+theorem sqrt_zero : sqrt 0 = 0 := rfl
+#align nat.sqrt_zero Nat.sqrt_zero
+
+theorem sqrt_eq_zero {n : ℕ} : sqrt n = 0 ↔ n = 0 :=
+  ⟨fun h =>
+    Nat.eq_zero_of_le_zero <| le_of_lt_succ <| (@sqrt_lt n 1).1 <| by rw [h]; exact by decide, by
+    rintro rfl
+    simp⟩
```
[the remark this answers is not in the document]
Comment (0art0) [reply Mathlib/Data/Nat/Sqrt.lean]: Would it be better to change this to `by rintro rfl; simp`, all on a single line? Or will that be too cluttered?

File: Mathlib/Data/Nat/Sqrt.lean (hunk 12 above)
[the remark this answers is not in the document]
Comment (0art0) [reply Mathlib/Data/Nat/Sqrt.lean:133]: I'm sorry, I didn't see that you were suggesting that I make this shorter by removing the `exact by` part.

**Comment by ChrisHughes24** [comment]
bors merge
